US07825253B2
5-Benzyloxy-2-chloroquinoline (155 mg, 0.56 mmol) and 5-Fluoro-2-methoxybenzylamine (CAS 1978-39-8) (268 mg, 1.68 mmol) were stirred in a sealed tube at 90° C. for 16 hours. The reaction mixture was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->50:50 gradient). (5-Benzyloxy-quinolin-2-yl)-(5-fluoro-2-methoxy-benzyl)-amine was obtained as a colorless oil (40 mg, 18%),

reactant | 5-Benzyloxy-2-chloroquinoline | 0.56 mmol, 155 mg | C(C1=CC=CC=C1)OC1=C2C=CC(=NC2=CC=C1)Cl | C16H12ClNO
reactant | 5-Fluoro-2-methoxybenzylamine | 1.68 mmol, 268 mg | FC=1C=CC(=C(CN)C1)OC | C8H10FNO
product | (5-Benzyloxy-quinolin-2-yl)-(5-fluoro-2-methoxy-benzyl)-amine | C(C1=CC=CC=C1)OC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC(=C1)F)OC | C24H21FN2O2
